US08623889B2
Step 4: 5-bromo-3-chloro-4-methyl-pyridine-2-carbaldehyde
To a solution of (5-bromo-3-chloro-4-methylpyridin-2-yl)methanol (255.6 mg; 1.081 mmol) in methylene chloride (8 mL; 124.8 mmol) was added Dess-Martin periodinane (0.5655 g; 1.293 mmol). The reaction mixture was stirred at room temperature for 17 hours. The reaction mixture was diluted with additional dichloromethane, washed with saturated aqueous sodium bicarbonate, dried over magnesium sulfate, filtered, and evaporated in vacuo. The crude product was purified via flash chromatography on silica gel (24 g silica, solvent gradient: 0-80% ethyl acetate in dichloromethane) to yield 226.5 mg (89%) of the title compound. LCMS (ESI): M+H=234.2; 1H NMR (400 MHz, CDCl3) δ 10.30 (s, 1H), 8.75 (s, 1H), 2.63 (s, 3H).

reactant | (5-bromo-3-chloro-4-methylpyridin-2-yl)methanol | 1.081 mmol, 255.6 mg | BrC=1C(=C(C(=NC1)CO)Cl)C | C7H7BrClNO
reactant | Dess-Martin periodinane | 1.293 mmol, 0.5655 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methylene chloride | 124.8 mmol, 8 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-3-chloro-4-methyl-pyridine-2-carbaldehyde | 226.5 mg, 89% | BrC=1C(=C(C(=NC1)C=O)Cl)C | C7H5BrClNO
